US07750017B2
2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-malonic acid diethyl ester
To a stirring suspension of (7-bromo-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-amine (150 mg, 0.291 mmol) in malonic acid diethyl ester (2 mL, 2 g, 12.5 mmol) was added sodium hydride (60%, 35.0 mg, 0.874 mmol). The resulting mixture was bubbled with N2 for 2 min, followed by addition of biphenyl-4-yl-di-tert-butyl-phosphane (4.35 mg, 0.015 mmol), and tris(dibenzylideneacetone)dipalladium (13.3 mg, 0.015 mmol). The mixture was bubbled with N2 for an additional 2 min. The reaction mixture was stirred at 135-140° C. for 20 min. It was cooled to rt, and concentrated in vacuo. The residue was purified by chromatography (hexane/EtOAc=2/1 to 1/1) to give the product (130 mg, 75%). 1H-NMR (CDCl3-d) δ 8.56 (s, 1H), 8.05 (d, 1H), 8.00 (s, 1H), 7.82 (b, 1H), 7.74 (s, 1H), 7.66 (d, 1H), 7.49 (q, 1H), 7.34-7.39 (m, 1H), 7.20-7.26 (m, 2H), 6.99-7.05 (m, 2H), 5.18 (s, 2H), 4.80 (s, 1H), 4.20-4.31 (m, 4H), 1.28-1.34 (m, 6H); LCMS RT=4.23 min, [M+H]+=594.1.

reactant | (7-bromo-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-amine | 0.291 mmol, 150 mg | BrC1=CC2=C(C3=C(N=CN=C3NC3=CC(=C(C=C3)OCC3=CC(=CC=C3)F)Cl)S2)C=C1 | C23H14BrClFN3OS
reactant | malonic acid diethyl ester | 12.5 mmol, 2 mL, 2 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium hydride | 0.874 mmol, 35.0 mg | [H-].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.015 mmol, 13.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | biphenyl-4-yl-di-tert-butyl-phosphane | 0.015 mmol, 4.35 mg | C1(=CC=C(C=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
product | 2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-malonic acid diethyl ester | 130 mg, 75% | C(C)OC(C(C(=O)OCC)C1=CC2=C(C3=C(N=CN=C3NC3=CC(=C(C=C3)OCC3=CC(=CC=C3)F)Cl)S2)C=C1)=O | C30H25ClFN3O5S
